US05359098
5-[5-(4-hydroxypiperidinyl)pentoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 21 from 5-hydroxyflavone, 1-bromo-5-chloropentane, and 4-hydroxypiperidine: mp 184°-185° C.

reactant | 5-hydroxyflavone | OC1=C2C(C=C(OC2=CC=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-5-chloropentane | BrCCCCCCl | C5H10BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 5-[5-(4-hydroxypiperidinyl)pentoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCCCOC1=CC=CC2=C1C(C=C(O2)C2=CC=CC=C2)=O | InChI=1S/C25H29NO4.ClH/c27-20-12-15-26(16-13-20)14-5-2-6-17-29-22-10-7-11-23-25(22)21(28)18-24(30-23)19-8-3-1-4-9-19;/h1,3-4,7-11,18,20,27H,2,5-6,12-17H2;1H
